US07759518B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclohexanesulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with cyclohexanesulfonyl chloride to obtain the desired product. 1H NMR (300 MHz, CDCl3): δ 7.43 (dd, J=1.5 & 10.2 Hz, 1H), 7.37 (ddd, J=2.4, 4.8 & 9.6 Hz, 1H), 7.27 (m, 1H), 7.11 (dd, J=9.3 & 18.0 Hz, 1H), 6.64 (br s, 1H), 6.18 (dt, J=1.5, 9.0 & 17.4 Hz, 1H), 5.63 (br s, 1H), 2.95 (triplet of triplet, 2.10-1.16 (m, 10H); m/z=509 [M−1]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | cyclohexanesulfonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclohexanesulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1CCCCC1)NC1=C(C=C(C=C1)I)F | C18H18F3IN2O2S
